US04053608
Synthesis of N,N-diethyl 2-methyl-5-nitronicotinamide (No. 98)
In dry chloroform were dissolved 0.3 g of 2-methyl-5-nitronicotinic acid and 1.5 ml of diethylamine. After addition of 10 g of phosphorous pentaoxide, the mixture was stirred with heating at 55° - 60° C. for 3 hours. After cooling, the chloroform portion was separated and evaporated under reduced pressure. The residue was, after addition of water, neutralized with sodium hydrogen carbonate and extracted with ethyl acetate. The extract was concentrated and purified on a silica gel column to give 0.25 g of a colorless oil.

reactant | 2-methyl-5-nitronicotinic acid | 0.3 g | CC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C7H6N2O4
reactant | diethylamine | 1.5 ml | C(C)NCC | C4H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N-diethyl 2-methyl-5-nitronicotinamide | 0.25 g | C(C)N(C(C1=C(N=CC(=C1)[N+](=O)[O-])C)=O)CC | C11H15N3O3
